US06410532B1
(R)-N-[5-Methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide Hydrochloride
(R)-N-[5-Methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide (100 mg, 0.22 mmol) was dissolved in anhydrous tetrahydrofuran (15 mL) and HCl in anhydrous diethyl ether (4 M) was added dropwise until the solution was acidic. The white precipitate was filtered and washed with diethyl ether to give the title compound as white crystals.

reactant | (R)-N-[5-Methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide | 0.22 mmol, 100 mg | CC1=C2CC[C@H](CC2=C(C=C1)N1CCN(CC1)C)NC(C1=CC=C(C=C1)N1CCOCC1)=O | C27H36N4O2
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 4 M | C(C)OCC | C4H10O
product | (R)-N-[5-Methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide Hydrochloride | Cl.CC1=C2CC[C@H](CC2=C(C=C1)N1CCN(CC1)C)NC(C1=CC=C(C=C1)N1CCOCC1)=O | InChI=1S/C27H36N4O2.ClH/c1-20-3-10-26(31-13-11-29(2)12-14-31)25-19-22(6-9-24(20)25)28-27(32)21-4-7-23(8-5-21)30-15-17-33-18-16-30;/h3-5,7-8,10,22H,6,9,11-19H2,1-2H3,(H,28,32);1H/t22-;/m1./s1
